Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Bactrim / Azithromycin / Codeine / Sulfa (Sulfonamide 
Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Difficulty walking and increased urinary frequency
 
Major Surgical or Invasive Procedure:
___ R VP shunt placement

 
History of Present Illness:
The patient is a lovely ___ who presents with worsening 
cognition, increased urinary frequency, and ataxia secondary to 
ventriculomegaly, with interval enlargement noted between scans 
___ vs. ___. She presents for elective R VP shunt placement.
 
Past Medical History:
-stroke in the corona radiata extending into the anterior limb 
of the internal capsule on the right on ___. At that time, 
pt presented with dysarthria, hiccups, dysphagia, left facial 
droop and typing errors with the left hand. She does not think 
that she had any numbness or weakness at that time. 
-insulin dependent diabetes mellitus diagnosed ___, 
complications include diabetic retinopathy
-HTN
-Hyperlipidaemia
-depression
-iron deficiency anemia
-osteopenia

 
Social History:
___
Family History:
Father and paternal aunt DM.
No known history of neurologic disease.

 
Physical Exam:
=============
ON DISCHARGE: 
=============
___ x 3.  NAD.  PERRLA.  CN II-XII intact.  
Incisions clean, dry and intact.
LS clear
RRR
Abdomen soft, NTND
___ BUE and BLE.  No drift.
 
Pertinent Results:
See OMR for pertinent lab results. 
 
Brief Hospital Course:
#Ventriculomegaly
The patient was admitted following uncomplicated placement of R 
VP shunt ___ strata set to 2.0 ___ 
ventriculomegaly on ___. For details of the procedure, please 
refer to Dr. ___ operative note. The patient was 
extubated and transferred to the PACU without incident. While in 
the PACU, the patient was noted to be neurologically intact. 
Post-operative CT was performed and revealed no evidence of 
hemorrhage or infarct with satisfactory placement of the 
catheter tip in the frontal horn of the right lateral ventricle. 
The patient was subsequently transferred to the ___ for further 
monitoring, where she underwent q2hr neurologic checks. On POD1, 
the patient ambulated OOB and tolerated sips. However, her 
ability to tolerate PO intake was limited due to ongoing nausea, 
which was treated with Zofran and scopolamine to good effect. It 
was felt the scopolamine patch may have cause confusion 
post-operatively and was d/c'd with improvement in the patient's 
mental status and did not result in worsening nausea. Here 
neurologic exam remained stable for the remaineder of her 
hospital course. 

At the time of discharge, the patient was neurologically intact; 
all surgical sites were C/D/I without evidence of induration, 
erythema, or swelling. 

#Pre-renal azotemia
The patient initially failed to void following surgery. There 
was no evidence of urinary retention on bladder scan. However, 
her urine output was borderline low (actual: 20 cc/hr, expected 
27 cc/hr) in the setting of prerenal azotemia (BUN 25/Cr 0.8 = 
31.25). Given poor PO intake in the setting of nausea, she 
continued IV hydration with NS @ 75 mL/hr and received a 500 cc 
NS bolus on POD1, after which she voided on POD1 evening.

#DM1
The patient continued home insulin pump post-operatively. The 
___ service was consulted and recommended increased basal 
insulin rate as well as sliding scale, as patient was 
hyperglycemic (SBP ~240s) and questionably confused with 
inability to self manage. The patient self d/c'd her pump on 
___ and she was started on Lantus daily and continued on 
insulin sliding scale per ___ recommendation. Her blood 
sugars were labile while off the insulin pump. She received her 
last dose of Lantus on ___ and re-initiated use of her insulin 
pump on the morning of ___.  She continued to do well with her 
pump and was monitored until the morning of ___ when settings 
were adjusted and she was discharged to rehab.  

#Hyponatremia: Patient has chronically low sodium (records as 
far back as ___ however in the setting of her post-operative 
confusion she was started on sodium tabs 1G TID, which was 
increased to 2g TID and had normotremia on discharge.  Her 
sodium tabs may be weaned as tolerated. Her mag, phos and 
calcium were also repleted PRN. 

#Confusion
The patient was noted to be mildly confused on POD1 evening. 
Neurologic exam was otherwise intact. U/A was sent to rule out 
UTI and negative. Confusion resolved after discontinuation of 
scopolamine patch. 

#Disopostion: 
Patient was evaluated by ___ and OT who recommended rehab. Case 
management was involved to work on bed placement. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 75 mg PO BID 
2. FLUoxetine 20 mg PO DAILY 
3. Insulin  Pump SC (Self Administering Medication)
Target glucose: 80-180

4. olmesartan 20 mg oral QHS 
5. omeprazole 20 mg oral QAM 
6. risedronate 35 mg oral 1X/WEEK 
7. Simvastatin 20 mg PO QPM 
8. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation   
3.  Cilostazol 100 mg PO BID  
4.  Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol  
5.  Docusate Sodium 100 mg PO BID  
6.  Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol  
7.  Glucose Gel 15 g PO PRN hypoglycemia protocol  
8.  Heparin 5000 UNIT SC BID  
9.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN pain  
10.  Polyethylene Glycol 17 g PO DAILY:PRN constipation   
11.  Senna 17.2 mg PO QHS  
12.  Sodium Chloride 2 gm PO TID  
13.  Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Basal rate minimum: 0.85 units/hr
Basal rate maximum: 0.85 units/hr
Bolus minimum: 0.5 units
Bolus maximum: 15 units
Target glucose: ___
Fingersticks: QAC and HS
MD acknowledges patient competent
MD has completed competency
 
14.  Aspirin 325 mg PO DAILY  
15.  BuPROPion 75 mg PO BID  
16.  FLUoxetine 20 mg PO DAILY  
17.  olmesartan 20 mg oral QHS  
18.  omeprazole 20 mg oral QAM  
19.  risedronate 35 mg oral 1X/WEEK  
20.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ventriculomegaly

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Ventriculoperitoneal Shunt

Surgery

•You had a VP shunt placed for hydrocephalus. Your incisions 
should be kept dry until sutures or staples are removed.
•Your shunt is a ___ Strata Valve which is programmable. 
This will need to be readjusted after all MRIs or exposure to 
large magnets.  Your shunt is programmed to 2.0.
•It is best to keep your incision open to air but it is ok to 
cover it when outside. 
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
You should NOT take aspirin and cilastazol until ___.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•Headache or pain along your incision. 
•Some neck tenderness along the shunt tubing.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason
 
Followup Instructions:
___